US06727264B1
N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-2-NAPHTHAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 2-naphthoyl chloride: ESMS m/e: 500.3 (M+H)+.

reactant | N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H35N3O
reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | THF | C1CCOC1 | C4H8O
product | N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-2-NAPHTHAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCCCCNC(=O)C1=CC2=CC=CC=C2C=C1 | C32H41N3O2
